US06762180B1
4-(piperidin-1-yl-methyl)-nitrobenzene
40.0 g of 4-nitrobenzyl bromide are dissolved in 500 ml of methylene chloride, 51.5 ml of triethylamine are added and 18.3 ml of piperidine are carefully added dropwise. After the end of the exothermic reaction the mixture is refluxed for another 30 minutes. After cooling it is washed with water and the organic phase is dried over sodium sulphate. Finally, the organic phase is evaporated down.

reactant | 4-nitrobenzyl bromide | 40.0 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | triethylamine | 51.5 ml | C(C)N(CC)CC | C6H15N
reactant | piperidine | 18.3 ml | N1CCCCC1 | C5H11N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-(piperidin-1-yl-methyl)-nitrobenzene | N1(CCCCC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O2
